US04006009
Preparation of Tetrahydro-1-(5-methoxy-1,3,4-thiadiazol- 2-yl)-3-but-3-enyl-6-(4-chlorobenzoyloxy)-2(1H)-pyrimidinone
Tetrahydro-1-(5-methoxy-1,3,4-thiadiazol-2-yl)- 3-but-3-enyl-6-hydroxy-2(1H)-pyrimidinone (0.1 mole), 4 -chlorobenzoic anhydride (0.11 mole), toluenesulfonic acid (0.05 gram) and benzene (100 ml) are charged into a glass reaction vessel equipped with a mechanical stirrer and thermometer. The reaction mixture is heated on a steam bath with stirring for a period of about 2 hours. After this time the reaction mixture is cooled to room temperature and is stripped of solvent under reduced pressure leaving a residue. The residue is recrystallized to yield the desired product tetrahydro-1-(5-methoxy-1,3,4-thiadiazol- 2-yl)-3-but-3-enyl-6-(4-chlorobenzoyloxy)-2(1H)-pyrimidinone.

reactant | Tetrahydro-1-(5-methoxy-1,3,4-thiadiazol-2-yl)- 3-but-3-enyl-6-hydroxy-2(1H)-pyrimidinone | 0.1 mole | COC1=NN=C(S1)N1C(N(CCC1O)CCC=C)=O | C11H16N4O3S
reactant | 4 -chlorobenzoic anhydride | 0.11 mole | ClC1=CC=C(C(=O)OC(C2=CC=C(C=C2)Cl)=O)C=C1 | C14H8Cl2O3
reactant | toluenesulfonic acid | 0.05 gram | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | tetrahydro-1-(5-methoxy-1,3,4-thiadiazol- 2-yl)-3-but-3-enyl-6-(4-chlorobenzoyloxy)-2(1H)-pyrimidinone | COC1=NN=C(S1)N1C(N(CCC1OC(C1=CC=C(C=C1)Cl)=O)CCC=C)=O | C18H19ClN4O4S
